US08034812B2
Production of N-[6-(3-amino-2-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide
Using N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (800 mg, 2.44 mmol), 3-amino-2-methylphenol (380 mg, 2.93 mmol), potassium carbonate (843 mg, 6.10 mmol) and N,N-dimethylformamide (6.0 mL) as starting materials and in the same manner as in Example 91, the title compound (454 mg, 58%) was obtained as a blackish brown powder.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 2.44 mmol, 800 mg | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | 3-amino-2-methylphenol | 2.93 mmol, 380 mg | NC=1C(=C(C=CC1)O)C | C7H9NO
reactant | potassium carbonate | 6.10 mmol, 843 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
product | N-[6-(3-amino-2-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 454 mg, 58% | NC=1C(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1)C | C17H17N5O2
